US04199586
D-4. 3-Amino-1-methyl-5-(4-pyridinyl)-2(1H)-pyridinone
A mixture containing 10.7 g. of 1-methyl-3-nitro-5-(4-pyridinyl)-2(1H)-pyridinone and 200 ml. of dimethylformamide was warmed to dissolve the nitro-pyridinone and the solution was filtered through infusorial earth. The filtrate was charged into a 500 ml. Parr bottle with 1.2 g. of 10% palladium-on-charcoal catalyst and the mixture was shaken under 40 p.s.i. of hydrogen at room temperature for three hours, after which time no further hydrogen was taken up. The reaction mixture was filtered and the filtrate was concentrated to dryness under reduced pressure (0.1 mm.) on a water bath at 40° C. leaving 10.1 g. of brown crystalline solid. The solid was recrystallized three times from benzene-ethanol, the third time using decolorizing charcoal, to yield 4.5 g. of 3-amino-1-methyl-5-(4-pyridinyl)-2(1H)-pyridinone, m.p. 175°-176° C. after drying at room temperature in vacuo for twenty hours.

reactant | 1-methyl-3-nitro-5-(4-pyridinyl)-2(1H)-pyridinone | CN1C(C(=CC(=C1)C1=CC=NC=C1)[N+](=O)[O-])=O | C11H9N3O3
reactant | nitro-pyridinone | [N+](=O)([O-])C=1C(NC=CC1)=O | C5H4N2O3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-Amino-1-methyl-5-(4-pyridinyl)-2(1H)-pyridinone | NC=1C(N(C=C(C1)C1=CC=NC=C1)C)=O | C11H11N3O
